US04252987
To a 30 ml glass bottle, under an argon atmosphere, were added 8 milligrams (0.029 millimol) of bis(methylcyclopentadienyl)titanium dichloride, 11 milligrams (0.10 millimol) of 1,4-diazabicyclo(2.2.2)-octane, 5 ml (40 millimol) of 1-hexene, 7 ml of chlorobenzene and finally 0.045 ml (0.44 millimol) of ethylaluminum dichloride. After a reaction of 19.5 hours at 25° C., there had been formed 1.57 millimol of 2-butyl-1-octene.

reactant | 1-hexene | 40 millimol, 5 ml | C=CCCCC | C6H12
reactant | ethylaluminum dichloride | 0.44 millimol, 0.045 ml | [Cl-].[Cl-].C(C)[Al+2]
reactant | chlorobenzene | 7 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | bis(methylcyclopentadienyl)titanium dichloride | 0.029 millimol, 8 milligrams | [Cl-].[Cl-].CC1(C=CC=C1)[Ti+2]C1(C=CC=C1)C
catalyst | 1,4-diazabicyclo(2.2.2)-octane | 0.10 millimol, 11 milligrams | N12CCN(CC1)CC2 | C6H12N2
product | 2-butyl-1-octene | 1.57 millimol | C(CCC)C(=C)CCCCCC | C12H24
